US06281246B1
a. Preparation of Isomeric Mixture of Sotalol
In addition, using chemical method as described by Le Garrec (1987), enriched d-sotalol hydrochloride and l-sotalol hydrochloride were prepared using mandelic acid and subjected to conversion to the base form, chiral separation and reconversion to hydrochloride salt was carried out. The details of these procedures are given below:

reactant | d-sotalol hydrochloride | CC(C)NC[C@H](C1=CC=C(C=C1)NS(=O)(=O)C)O.Cl
reactant | mandelic acid | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
product | Sotalol | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O | C12H20N2O3S
